Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
diplopia and facial numbness
 
Major Surgical or Invasive Procedure:
Lumbar puncture ___

 
History of Present Illness:
Mr. ___ is a pleasant ___ man with HIV, HTN, HLD who
presents with 2 weeks of left jaw/left temple pain and acute
onset diplopia that started yesterday.

2 weeks ago, he found that he was unable to chew on the left 
side
of his mouth due to pain. He subsequently felt a pain in his 
left
temple, eye, and face. Pain was like someone was punching him in
the face, an his left eye pain felt like pressure behind his 
left
eye only. Pain better with oxycodone, nothing seemed to make it
worse. Since then, he has only been eating soft things as it has
been very painful to chew things. He also says that his scalp is
very tender to touch. Denies trouble lifting his arms above his
head or getting out of a chair.

Diplopia was acute in onset yesterday around noon. He sees two
images on primary gaze that go away when he closes each eye
individually. He sees one image when looking to the right and 
two
images when looking to the left that again. Diplopia resolves
when closing on eye. He also endorsed numbness over his left
cheek only to light touch. Continues to have headache over the
left side. 

Of note, he saw his PCP this past ___ prior to the diplopia
for his left jaw pain. His PCP thought this was due to parotitis
and prescribed augmentin. Pain did not get better and worsened,
spread to his whole face and head and subsequently developed
double vision. He had a febrile sensation and sweating on ___. 

Mr. ___ endorsed to his PCP that he had a similar episode of
couble vision in ___ and was treated with some kind of medicine
and was told that symptoms could recur in the future. 

 
Past Medical History:
HTN, HIV infection, herpes progenitalis, colonic
adenoma, diverticulitis, carcinoma in situ of anal ___,
hyperlipidemia, narcotic contract, erectile dysfunction, lumbar
spinal stenosis (large left sided disc herniation at L4/5 with
compression of left L4-5 nerve root s/p surgery, left jaw 
disease
s/p plates and screws to bone for fracture of left maxilla from
trauma, chronic depression, shoulder bursitis s/p rotator cuff
repair, hyperacusia, impaired glucose tolerance, right lumbar
pain, rotator cuff tear
 
Social History:
___
Family History:
mother with EtOH use, sister with diabetes
 
Physical Exam:
PHYSICAL EXAMINATION
General:  NAD, wearing patch over left eye
HEENT: NCAT, neck supple, palpable temporal cord on left
___: RRR, no M/R/G
Pulmonary: CTAB, no crackles or wheezes
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema

Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate
history without difficulty. Able to state MOYB. Speech is 
fluent with full sentences, intact repetition, and intact 
verbal comprehension. Naming intact. No paraphasias. No 
dysarthria. Normal prosody. No apraxia. No evidence of
hemineglect. No left-right confusion.  Able to follow both
midline and appendicular commands.

- Cranial Nerves: PERRL 5->3 brisk. Optic discs crisp
bilaterally. VF full to number counting. On primary gaze, right
eye esotropic. Horizontal diplopia present on primary gaze,
better when covering either eye. On R gaze, no diplopia. On L
gaze, diplopia present; when L eye closed, outside image
disappears. When tracking a moving object, the right eye moves
smoothly but left eye moves slower. No nystagmus. Decreased
sensation at V2 to light touch but intact to pin and 
temperature.
No sensory deficits to V1 and V3. Facial strength is symmetric. 
Decreased hearing on left to finger rub (baseline per pt). 
Palate 
elevation symmetric. SCM/Trapezius strength ___ bilaterally. 
Tongue midline.

- Motor:  Normal bulk and tone. No drift. No tremor or 
asterixis.

  [Delt] [Bic] [Tri] [ECR] [IO] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6] [T1] [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5    5    5     5     5     5    5 
 R   5     5     5     5    5    5     5     5     5    5
  
- Reflexes: 
       [Bic] [Tri] [___] [Quad] [Gastroc]
      L  2+    2+     2+      2+     1
      R  2+    2+     2+      2+     1  

Plantar response flexor bilaterally 

- Sensory: No deficits to light touch or pin prick in bilateral
extremities.

- Coordination: No dysmetria with finger to nose testing
bilaterally. Good speed and intact cadence with rapid 
alternating
movements.

- Gait: Narrow based, steady gait.
 
Pertinent Results:
LABORATORY STUDIES:

___ 10:05PM BLOOD WBC-6.3 RBC-4.70 Hgb-13.9 Hct-43.5 MCV-93 
MCH-29.6 MCHC-32.0 RDW-13.1 RDWSD-44.2 Plt ___
___ 10:05PM BLOOD Neuts-57.3 ___ Monos-8.3 Eos-1.4 
Baso-0.5 Im ___ AbsNeut-3.58 AbsLymp-2.01 AbsMono-0.52 
AbsEos-0.09 AbsBaso-0.03
___ 07:00AM BLOOD ___ PTT-35.4 ___
___ 10:05PM BLOOD Glucose-119* UreaN-10 Creat-0.7 Na-139 
K-4.9 Cl-102 HCO3-28 AnGap-14
___ 07:00AM BLOOD Calcium-10.1 Phos-3.9 Mg-2.4
___ 10:05PM BLOOD CRP-1.8
___ 10:05PM BLOOD SED RATE-2

___ 10:41AM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-8* Polys-2 
___ ___ 10:41AM CEREBROSPINAL FLUID (CSF) TotProt-48* 
Glucose-67

**************
RADIOLOGIC STUDIES:

CT head noncontrast ___
IMPRESSION: 
1. No acute intracranial abnormality. 
2. No evidence of acute intracranial hemorrhage. 
3. Postsurgical changes suggestive of prior left canal wall up 
mastoidectomy. 
4. Nonspecific thickening of bilateral tympanic membranes, 
partial 
opacification of bilateral middle ear cavities, soft tissue 
density noted to surround right ossicles, and left ossicles not 
definitely visualized on 
current examination.  Please note that bilateral class 
cholesteatomas are not excluded on the basis of this 
examination.  If clinically indicated, consider dedicated 
temporal bone CT for further evaluation. 
5.  Please note MRI of the brain is more sensitive for the 
detection of acute infarct. 
6.  Paranasal sinus disease as described. 
7. Postsurgical changes related to prior left superolateral 
orbital fracture. 

MRI w/wo contrast brain ___
IMPRESSION: 
1. Approximately 2 x 7 x 7 mm left cavernous sinus mass with 
extension along left Meckel's cave posteriorly and extending 
left foramen ovale concerning for perineural tumor spread.  
Differential considerations include metastatic lesion, lymphoma, 
invasive carcinomas, inflammatory lesion (e.g.  ___, 
Wegner's or neurosarcoidosis), meningioma or schwannoma. 
2. Postsurgical changes related to left-sided mastoidectomy. 
3. Paranasal sinus disease as described. 
      
CT chest ___
IMPRESSION:  
No evidence of active intrathoracic infection or malignancy. 
Lower lobe bronchiectasis likely sequela of prior infection. 
Lipoma 

CT abdomen/pelvis ___
IMPRESSION: 
1. No evidence of intra-abdominal/ intrapelvic malignancy or 
metastatic disease.  No lymphadenopathy. 
2. Marked degenerative change at L4-5 L5-S1 with compression 
deformity of the L5 vertebral body.  No suspicious osseous 
lesions 

 
Brief Hospital Course:
Patient admitted for workup of jaw pain and diplopia, with 
examination revealing for multicranial neuropathy localizing to 
the left cavernous sinus. Imaging revealed an enhancing mass 
within the left cavernous sinus extending to Meckel's cave and 
foramen ovale. The differential included a malignancy or 
meningioma, vs inflammatory or infectious lesion. Lumbar 
puncture was performed and CSF was obtained which showed only 1 
WBC, 8 RBCs, protein 47, and glucose 67. Serum ESR was 2 which 
was less suggestive of acute infectious or 
inflammatory/vasculitic process. Neurosurgery was consulted who 
recommended follow up in clinic to further discuss surgical 
options. A CT torso was performed; preliminary read did not 
reveal any obvious source of malignancy. The patient was 
discharged with follow up arranged in Neurology clinic as well 
as instructions to follow up in ___ clinic.

Transitional issues
[ ] Follow up CSF studies including: cytology, TB, AFB cultures, 
fungal cultures, ACE
[ ] Follow up serum studies including: ACE, quantiferon gold, 
SPEP, ___, ANCA
[ ] Follow up ___ clinic for surgical evaluation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Cyclobenzaprine 10 mg PO TID:PRN back pain 
2. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
3. Gabapentin 600 mg PO TID 
4. Venlafaxine 150 mg PO BID 
5. Cialis (tadalafil) 20 mg oral PRN sexual activity 
6. Pravastatin 40 mg PO QPM 
7. TraZODone 150 mg PO QHS:PRN insomnia 
8. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
9. Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral DAILY 

 
Discharge Medications:
1. Cyclobenzaprine 10 mg PO TID:PRN back pain 
2. Gabapentin 600 mg PO TID 
3. Pravastatin 40 mg PO QPM 
4. Venlafaxine 150 mg PO BID 
5. Cialis (tadalafil) 20 mg oral PRN sexual activity 
6. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
7. Genvoya (elviteg-cobi-emtric-tenofo ala) ___ mg 
oral DAILY 
8. OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN pain 
9. TraZODone 150 mg PO QHS:PRN insomnia 
10. Outpatient Occupational Therapy
visual assistance for diplopia

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abnormal MRI- left cavernous sinus mass
HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ Neurology for further workup of left 
facial pain and blurry vision on leftward gaze.  We sent you for 
an MRI of the brain which showed a lesion on the left side of 
your brain (left cavernous sinus), which is affecting the nerves 
of the brain and is the cause of your symptoms.  To further 
evaluate the cause of that lesion we performed a lumbar 
puncture.  That test showed no signs of infection.   We sent 
additional studies to evaluate for possible cancer or 
inflammation in the brain but those tests are pending at the 
time of your discharge.   We had the Neurosurgery team review 
your MRI and at this time, they do not think any urgent surgery 
or biopsy is needed and they ask that we repeat your MRI studies 
in 1 month.  In the future a biopsy may be needed to determine 
the cause of your abnormal MRI and the Neurosurgeons will 
continue to discuss this with you as an outpatient.   

You will follow up with Dr. ___ in Neurology and Dr. ___ 
in Neurosurgery to formulate a plan once the results of all your 
various blood tests are back.

It was a pleasure taking care of you. We wish you the best.
Sincerely,
Your ___ Care Team

 
 
Followup Instructions:
___